US06162813
Step B: 2-amino-4-chloro-5-nitrobenzoic acid methyl ester
To a solution of 2-acetylamino-4-chloro-5-nitrobenzoic acid methyl ester (1.02 g in 15 mL methanol) was added 1 mL of conc. sulfuric acid and the mixture heated to reflux on an oil bath. After 1 hour, the mixture was concentrated in vacuo and the resulting solid dissolved in 200 mL ethyl acetate. This was then washed with 10% sodium bicarbonate (2×100 mL) and brine (100 mL) and the organics dried over magnesium sulfate. The concentrate was recrystallized from methanol to give the title compound (0.82 g).

reactant | 2-acetylamino-4-chloro-5-nitrobenzoic acid methyl ester | 15 mL, 1.02 g | COC(C1=C(C=C(C(=C1)[N+](=O)[O-])Cl)NC(C)=O)=O | C10H9ClN2O5
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
product | 2-amino-4-chloro-5-nitrobenzoic acid methyl ester | 0.82 g | COC(C1=C(C=C(C(=C1)[N+](=O)[O-])Cl)N)=O | C8H7ClN2O4
